US05424425
The β-allylamino functionality of Nα -(benzyloxycarbonyl)-β-(allylamino)-L-alanine, methyl ester is then acylated with trifluoroacetic anhydride as is known in the art to give Nα -(benzyloxycarbonyl)-β-(trifluoroacetyl-allylamino)-L-alanine, methyl ester.

reactant | Nα -(benzyloxycarbonyl)-β-(allylamino)-L-alanine, methyl ester | C(C1=CC=CC=C1)OC(=O)N[C@@H](CNCC=C)C(=O)OC | C15H20N2O4
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | Nα -(benzyloxycarbonyl)-β-(trifluoroacetyl-allylamino)-L-alanine, methyl ester | C(C1=CC=CC=C1)OC(=O)N[C@@H](CN(CC=C)C(C(F)(F)F)=O)C(=O)OC | C17H19F3N2O5
